US07405302B2
Step 1: Ethyl 3-[1-(4-Chloro-benzyl)-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl]-proprionate
To a solution of Ethyl (E)-3-[1-(4-chloro-benzyl)-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl]-acrylate (100 mg, 0.270 mmol) in a mixture of EtOH (2 mL) and EtOAc (2 mL) was added Pd/C (˜15 mg) and maintained under an atmosphere of H2 for 36 hrs. The resulting slurry was filtered through celite eluting with EtOAc, and the solvent evaporated to afford the title acid as a green oil used without further purification.

reactant | Ethyl (E)-3-[1-(4-chloro-benzyl)-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl]-acrylate | 0.270 mmol, 100 mg | ClC1=CC=C(CN2C(=CC=3C2=NC=C(C3)OC)/C=C/C(=O)OCC)C=C1 | C20H19ClN2O3
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | ˜15 mg | [Pd] | Pd
product | Ethyl 3-[1-(4-Chloro-benzyl)-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl]-proprionate | ClC1=CC=C(CN2C(=CC=3C2=NC=C(C3)OC)CCC(=O)OCC)C=C1 | C20H21ClN2O3
